US05834506
1,5-Bis-(4-nitro-phenyl)-pentan-3-one
A mixture of 2-(4-nitro-benzyl)-5-(4-nitro-phenyl)-3-oxo-pentanoic acid ethyl ester obtained in Example GG (18.2 g, 45.4 mmol), 6N HCl (250 mL), and THF (50 mL) was refluxed for 18 hours and cooled to room temperature. H2O was added, and the solution was extracted with EtOAc. The extracts were combined, washed with brine, dried (MgSO4), and concentrated. The residue was triturated with Et2O and filtered to give the title compound. 1H NMR (CDCl3) δ 2.73 (t, 4 H), 2.96 (t, 4 H), 7.29 (d, 4 H), 8.09 (m, 4 H).

reactant | 2-(4-nitro-benzyl)-5-(4-nitro-phenyl)-3-oxo-pentanoic acid ethyl ester | C(C)OC(C(C(CCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H20N2O7
reactant | HCl | 6N, 250 mL | Cl | ClH
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 1,5-Bis-(4-nitro-phenyl)-pentan-3-one | [N+](=O)([O-])C1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H16N2O5
